US07687491B2
(6a) {4-[5-(4-Benzylphenyl)-1,2,4-oxadiazol-3-yl]-2-thienyl}methanol
The crude product of the title compound was synthesized by conducting the similar reaction to that mentioned in Example 5 (5a) using 4-benzylbenzoic acid (0.12 g, 0.55 mmol), 1-hydroxybenzotriazole (88 mg, 0.65 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (0.12 g, 0.60 mmol), 5-({[t-butyl(dimethyl)silyl]oxy}methyl)-N′-hydroxythiophene-3-carboximidamide (0.14 g, 0.5 mmol) that was obtained in Example 3 (3b), and tetrabutylammonium fluoride (a 1.0 M solution in tetrahydrofuran, 1.0 ml, 1.0 mmol). Subsequently, the crude product of the title compound thus obtained was purified by recrystallization from a mixed solvent of ethyl acetate and hexane to afford the title compound (99 mg) in a yield of 57% as a white crystalline solid.

reactant | 4-benzylbenzoic acid | 0.55 mmol, 0.12 g | C(C1=CC=CC=C1)C1=CC=C(C(=O)O)C=C1 | C14H12O2
reactant | 1-hydroxybenzotriazole | 0.65 mmol, 88 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 0.60 mmol, 0.12 g | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | 5-({[t-butyl(dimethyl)silyl]oxy}methyl)-N′-hydroxythiophene-3-carboximidamide | 0.5 mmol, 0.14 g | [Si](C)(C)(C(C)(C)C)OCC1=CC(=CS1)C(N)=NO | C12H22N2O2SSi
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | {4-[5-(4-Benzylphenyl)-1,2,4-oxadiazol-3-yl]-2-thienyl}methanol | C(C1=CC=CC=C1)C1=CC=C(C=C1)C1=NC(=NO1)C=1C=C(SC1)CO | C20H16N2O2S
